US09428448B2
Stearoyl-Prolinol (39)
To a solution of stearic acid (0.5 g 1.758 mmol) in 5 ml dry pyridine (kept over KOH) (0.399 g, 1.93 mmol) and NHS (0.223 g, 1.93 mmol) were added and dissolved in, stirred for 24 hr at room temperature. Reaction was followed by TLC 5% MeOH. Prolinol (0.197 g, 1.949 mmol) were added and the mixture was stirred at room temperature for three days was added to the mixture, and stirred at room temperature. Reaction controlled by TLC (100% Ethyl acetate). At the end of the reaction, volatiles were removed under reduced pressure and the mixture was dissolved in 30 ml DCM and DCU precipitate was filtrated off and the desired product was purified using column chromatography (ethyl acetate/DCM=1:1).

reactant | stearic acid | 1.758 mmol, 0.5 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | pyridine | 1.93 mmol, 5 ml, 0.399 g | N1=CC=CC=C1 | C5H5N
reactant | MeOH | CO | CH4O
reactant | Prolinol | 1.949 mmol, 0.197 g | N1[C@H](CO)CCC1 | C5H11NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Stearoyl-Prolinol | C(CCCCCCCCCCCCCCCCC)(=O)N1[C@H](CO)CCC1 | C23H45NO2
